US07157464B2
Synthesis of 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(3-heptafluoropropyl-5-methyl-4-nitro-pyrazol-1-yl)-ethanone
Protocol T was followed using 3-Heptafluoropropyl-5-methyl-4-nitro-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=3/7) afforded the title compound as oil. 1H NMR (400 MHz, CDCl3): 6.9–7.0 (m, 2H), 6.8–6.9 (m, 2H), 5.06–5.14 (d, 2H), 3.6–3.8 (m, 4H), 3.06–3.18 (m, 4H), 2.56–2.66 (d, 3H). 13C NMR (400 MHz, CDCl3): 160, 146.2, 144, 119.2, 118, 52.2, 50.8, 50.4, 46, 42.2, 12.

reactant | 3-Heptafluoropropyl-5-methyl-4-nitro-1H-pyrazole | FC(C(C1=NNC(=C1[N+](=O)[O-])C)(F)F)(C(F)(F)F)F | C7H4F7N3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(3-heptafluoropropyl-5-methyl-4-nitro-pyrazol-1-yl)-ethanone | FC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C)[N+](=O)[O-])C(C(C(F)(F)F)(F)F)(F)F)=O | C19H17F8N5O3
